US07538241B2
(Carbomethoxymethylene)triphenylphospholane (0.17 g, 0.51 mmol) was added to toluene (4.0 mL) solution of methyl 2-bromo-6-(5-formylfuran-2-yl)-3,5-bis(methoxymethoxy)phenylacetate (0.11 g, 0.25 mmol) obtained in the step 3 in Example 265, and stirred at 60° C. for 4 h ours. The reaction solution was cooled to room temperature, and then concentrated under reduced pressure. The resulting residue was purified through silica gel column chromatography (n-hexane to ethyl acetate/n-hexane=1/2) to obtain methyl 3-{5-[3-bromo-2-(methoxycarbonylmethyl)-4,6-bis(methoxymethoxy)phenyl]furan-2-yl}acrylate (0.12 g, 93%).

reactant | (Carbomethoxymethylene)triphenylphospholane | 0.51 mmol, 0.17 g | C(=O)(OC)C=C1C(P(CC1)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H23O2P
reactant | methyl 2-bromo-6-(5-formylfuran-2-yl)-3,5-bis(methoxymethoxy)phenylacetate | 0.25 mmol, 0.11 g | BrC1=C(C(=C(C=C1OCOC)OCOC)C=1OC(=CC1)C=O)CC(=O)OC | C18H19BrO8
solvent | toluene | 4.0 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 3-{5-[3-bromo-2-(methoxycarbonylmethyl)-4,6-bis(methoxymethoxy)phenyl]furan-2-yl}acrylate | 0.12 g, 93% | BrC=1C(=C(C(=CC1OCOC)OCOC)C1=CC=C(O1)C=CC(=O)OC)CC(=O)OC | C21H23BrO9
